US03991070
Following the procedure of Example 2, 2-(3-phthalimidomethyl-4H-1,2,4-triazol-4-yl)-2'-chlorobenzophenone is reacted with N-chlorophthalimide to form 2-(3-chloro-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl)-2'-chlorobenzophenone.

reactant | 2-(3-phthalimidomethyl-4H-1,2,4-triazol-4-yl)-2'-chlorobenzophenone | C1(C=2C(C(N1CC1=NN=CN1C1=C(C(=O)C3=C(C=CC=C3)Cl)C=CC=C1)=O)=CC=CC2)=O | C24H15ClN4O3
reactant | N-chlorophthalimide | ClN1C(C=2C(C1=O)=CC=CC2)=O | C8H4ClNO2
product | 2-(3-chloro-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl)-2'-chlorobenzophenone | ClC1=NN=C(N1C1=C(C(=O)C2=C(C=CC=C2)Cl)C=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C24H14Cl2N4O3
